US06632815B2
The mixture of 4-pyridineboronic acid (0.97 g, 7.8 mmol), 4-Boc-aminopiperidine (3.25 g, 15.8 mmol), Cu(OAc)2 (2.88 g, 15.8 mmol), DMAP (catalytic amount), pyridine (2.5 mL, 32 mmol), 4A activated molecular sieve in 50 mL dry DCM was stirred for over 2 days. It was diluted with DCM, filtered through celite. It was washed with brine and water, dried, filtered through a silica plug, evaporated in vacuuo to give 4-(4-Boc-aminopiperidin-1-yl)pyridine in 90% yield. ES-MS: (+H) 278.

reactant | 4-pyridineboronic acid | 7.8 mmol, 0.97 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | 4-Boc-aminopiperidine | 15.8 mmol, 3.25 g | C(=O)(OC(C)(C)C)C1CCN(CC1)N | C10H20N2O2
reactant | pyridine | 32 mmol, 2.5 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 15.8 mmol, 2.88 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 4-(4-Boc-aminopiperidin-1-yl)pyridine | 90% yield | C(=O)(OC(C)(C)C)C1CC(N(CC1)C1=CC=NC=C1)N | C15H23N3O2
